* SPICE Netlist
VDD 4 0 DC 5V
* Resistors
RD1 2 4 1k
RD2 2 4 1k
* Transistors
M1 2 7 1 1 PMOS
M3 2 3 7 0 NMOS
M5 3 6 8 0 NMOS
M6 3 5 8 0 NMOS
* Current Source
? Missing component
* Voltage Sources
Vin 6 0 DC 0V
Vcont 7 0 DC 0V
.END
